US04000275
3-Ethoxy-6-isobutyl-8,9-dimethylbenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3-ethoxy-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one and isobutyl bromide.

reactant | 3-ethoxy-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one | C(C)OC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C(=C1)C)C)=O | C18H17N3O2
reactant | isobutyl bromide | C(C(C)C)Br | C4H9Br
product | 3-Ethoxy-6-isobutyl-8,9-dimethylbenzimidazo[2,1-b]-quinazolin-12(6H)one | C(C)OC1=CC=C2C(N3C(=NC2=C1)N(C1=C3C=C(C(=C1)C)C)CC(C)C)=O | C22H25N3O2
